US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid pyridin-3-ylamide
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (169 mg, 0.5 mmol) and commercially available 5-bromo-thiophene-2-sulfonic acid pyridin-3-ylamide [CAS-No. 439934-18-6](160 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (220 mg, 76%). MS (ISN) 574.1 [(M−H)−]; mp 226° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 5-bromo-thiophene-2-sulfonic acid pyridin-3-ylamide | 0.5 mmol, 160 mg | N1=CC(=CC=C1)NS(=O)(=O)C=1SC(=CC1)Br | C9H7BrN2O2S2
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid pyridin-3-ylamide | N1=CC(=CC=C1)NS(=O)(=O)C=1SC(=CC1)C#CC=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C25H14F5N5O2S2
